US07687491B2
(9h) Ethyl 1-({4-[3-(4-isobutylphenyl)isoxazol-5-yl]-2-thienyl}methyl)azetidine-3-carboxylate
A solution of {4-[3-(4-isobutylphenyl)isoxazol-5-yl]-2-thienyl}methanol (0.43 g, 1.4 mmol) that was obtained in Example 9 (9g), carbon tetrabromide (0.68 g, 2.1 mmol) and triphenylphosphine (0.54 g, 2.1 mmol) in dichloromethane (15 ml) was stirred at 0° C. for 5 minutes. Subsequently, to the reaction mixture were added successively ethyl 3-azetidinecarboxylate hydrochloride (0.34 mg, 2.1 mmol) and N,N-diisopropylethylamine (0.60 ml, 3.4 mmol) with stirring, and the resulting mixture was stirred at room temperature for 18 hours. After stirring, a saturated aqueous solution of sodium hydrogencarbonate (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (50 ml) and extracted with dichloromethane. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:4 to 3:2) as the eluent to afford the title compound (0.48 g) in a yield of 82% as a white crystalline solid.

reactant | {4-[3-(4-isobutylphenyl)isoxazol-5-yl]-2-thienyl}methanol | 1.4 mmol, 0.43 g | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=C1)C=1C=C(SC1)CO | C18H19NO2S
reactant | carbon tetrabromide | 2.1 mmol, 0.68 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.1 mmol, 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 2.1 mmol, 0.34 mg | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 3.4 mmol, 0.60 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | Ethyl 1-({4-[3-(4-isobutylphenyl)isoxazol-5-yl]-2-thienyl}methyl)azetidine-3-carboxylate | yield of 82% | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=C1)C=1C=C(SC1)CN1CC(C1)C(=O)OCC | C24H28N2O3S
